US04182881
B. 4-Phenylbenzamide
A mixture of 27 g (0.12 mole) of 4-biphenylcarbonyl chloride and 300 ml of AR chloroform was saturated with anhydrous ammonia while maintaining a temperature of 20°. Following the 20 min. addition the white precipitate was collected, washed with cold water and oven-dried (60°) to give 23.5 g, m.p. shrinks 228°, melts 230°-233°.

reactant | 4-biphenylcarbonyl chloride | 0.12 mole, 27 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | ammonia | N | H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Phenylbenzamide | C1(=CC=CC=C1)C1=CC=C(C(=O)N)C=C1 | C13H11NO
